US04762934
A total of 295 g of pyrrolidine and 250 g of 2-chloroethoxyethoxyethanol in 750 ml of ethanol was refluxed for 5 hours. The reaction mixture was then treated with 106 g of KOH and refluxed for an additional hour. Filtration and distillation yielded 229 g of N-(hydroxyethoxyethoxyethyl)pyrrolidine (b.p.=145° C. at 3 mm).

reactant | pyrrolidine | 295 g | N1CCCC1 | C4H9N
reactant | 2-chloroethoxyethoxyethanol | 250 g | ClCCOCCOC(C)O | C6H13ClO3
reactant | KOH | 106 g | [OH-].[K+]
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | N-(hydroxyethoxyethoxyethyl)pyrrolidine | 229 g | OCCOCCOCCN1CCCC1 | C10H21NO3
